US09193720B2
The potassium hydroxide (230 mg, 4.1 mmol) was added to a gave (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (255 mg, 0.41 mmol) in ethanol (4 mL) and stirred for 6 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep to give (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid 51 mg (21%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.39-7.36 (m, 2H), 7.19-7.12 (m, 3H), 7.02-6.99 (m, 3H), 5.81 (s, 1H), 4.24-4.21 (m, 2H), 3.49 (br. s, 4H), 3.07-3.04 (m, 2H), 2.89/2.81 (s, 3H), 2.44 (s, 3H), 2.04 (s, 3H), 1.59-1.45 (m, 3H), 1.32-1.25 (m, 1H), 1.12 (br. s, 9H), 0.99/0.81 (s, 3H). UPLC (M+H)=579.5.

reactant | potassium hydroxide | 4.1 mmol, 230 mg | [OH-].[K+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.41 mmol, 255 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)(C)OC)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C37H49FN2O5
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid | 51 mg, 21% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)OC)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C34H43FN2O5
